US06329338B1
(3) Synthesis of N-ethyl 3-benzyloxycarbonylamino-1-propanol t-butyl-dimethylsilyl ether
3-Benzyloxycarbonylamino-1-propanol t-butyldimethylsilyl ether (10.1 g) was dissolved in THF (250 ml), and to the resulting solution were added under ice-cooling ethyl iodide (5.1 ml) and a 60% sodium hydride (as a mineral oil dispersion) (2.0 g). The resultant mixture was stirred under ice-cooling for 30 minutes and then at room temperature for 15 hours. Ethyl acetate and water were added to the reaction solution obtained. The organic layer so separated was washed with water and then dried over magnesium sulfate. The solvent was evaporated off from the solution, and the residue was purified by a silica gel chromatography, thus affording the titled compound (8.5 g; 80%).

reactant | 3-Benzyloxycarbonylamino-1-propanol t-butyldimethylsilyl ether | 10.1 g | [Si](C)(C)(C(C)(C)C)OCCCNC(=O)OCC1=CC=CC=C1 | C17H29NO3Si
reactant | ethyl iodide | 5.1 ml | C(C)I | C2H5I
reactant | sodium hydride | [H-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-ethyl 3-benzyloxycarbonylamino-1-propanol t-butyl-dimethylsilyl ether | 8.5 g, 80% | [Si](C)(C)(C(C)(C)C)OCCCN(CC)C(=O)OCC1=CC=CC=C1 | C19H33NO3Si
